US09056859B2
Step E: (4-chloro-1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde
To a solution of 5-allyl-4-chloro-2-benzofuran-1(3H)-one (80 mg, 0.38 mmol) in MeOH at −78° C. was bubbled ozone through until it turned light blue. After xcess ozone was removed by bubbling nitrogen through the solution, dimethyl sulfide (0.57 mL, 7.7 mmol) was added into the reaction. The solution was allowed to warm to RT. The crude material was purified by MPLC to deliver (4-chloro-1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde. LC-MS (IE, m/z): 211 [M+1]+.

reactant | 5-allyl-4-chloro-2-benzofuran-1(3H)-one | 0.38 mmol, 80 mg | C(C=C)C1=C(C2=C(C(OC2)=O)C=C1)Cl | C11H9ClO2
reactant | ozone | O=[O+][O-] | O3
reactant | dimethyl sulfide | 7.7 mmol, 0.57 mL | CSC | C2H6S
solvent | MeOH | CO | CH4O
product | (4-chloro-1-oxo-1,3-dihydro-2-benzofuran-5-yl)acetaldehyde | ClC1=C(C=CC=2C(OCC21)=O)CC=O | C10H7ClO3
